US09024044B2
Step 1. Synthesis of N-allylglycine benzyl ester hydrochloride
To a solution of allylamine hydrochloride (5.0 g, 53.4 mmol) in tetrahydrofuran (100 mL) was added diisopropylethylamine (10 mL) and bromoacetic acid benzyl ester (3.06 g, 13.3 mmol) at 0° C. and the mixture was stirred at room temperature overnight. The reaction mixture was concentrated under reduced pressure. The residue was added ethyl acetate and 1 N-hydrochloric acid solution, the organic layer was extracted, and the aqueous layer was extracted two times with ethyl acetate. The organic layers were collected, washed with sodium thiosulfate solution and brine, and dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The obtained residue was purified by silica gel column chromatography, and to the obtained oil was added 4N-Hydrogen chloride in 1,4-Dioxane (3.5 mL). The mixture was concentrated under reduced pressure and lyophilized to give the title compound (2.12 g, 8.79 mmol, 66%).

reactant | allylamine hydrochloride | 53.4 mmol, 5.0 g | Cl.C(C=C)N
reactant | diisopropylethylamine | 10 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | bromoacetic acid benzyl ester | 13.3 mmol, 3.06 g | C(C1=CC=CC=C1)OC(CBr)=O | C9H9BrO2
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
product | N-allylglycine benzyl ester hydrochloride | 8.79 mmol, 2.12 g, 66% | Cl.C(C1=CC=CC=C1)OC(CNCC=C)=O | InChI=1S/C12H15NO2.ClH/c1-2-8-13-9-12(14)15-10-11-6-4-3-5-7-11;/h2-7,13H,1,8-10H2;1H
